US06576752B1
Synthesis of Biotin-aldehyde Reagent
Biotin is conjugated to 6-aminohexanol using dicyclohexyl carbodiimide reagent in DMF solvent. The resulting alcohol is oxidized to the aldehyde using pyridinium chlorochromate, potassium acetate in methylene chloride at room temperature (according to the procedure of Ducray et al., J. Org. Chem., 1999, 64:3800-3801). The aldehyde compound is purified by silica column chromatography.

reactant | Biotin | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H16N2O3S
reactant | 6-aminohexanol | NCCCCCCO | C6H15NO
reactant | dicyclohexyl carbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | pyridinium chlorochromate | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | potassium acetate | C(C)(=O)[O-].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Biotin-aldehyde | C(CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12)=O | C10H16N2O2S
